Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([N:2]=[C:3]=[N:4][H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:12]>>[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],38.4474947472469
[C:1]([O:2][C:3](=[O:4])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C:5]#[N:6])([H:7])([H:8])[H:9].[O:2]=[C:3]=[O:4],69.8336570407349
[C:1]([C:2]1=[C:7]([H:15])[C@@:5]1([N:4]([C:3][H:11])[H:12])[N:6]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([c:2]1[c:3]([H:11])[n:4]([H:12])[c:5]([N:6]([H:13])[H:14])[c:7]1[H:15])([H:8])([H:9])[H:10],31.6976550005257
[H:7][H:10].[O:1]([C+:2]([C@@:3]1([H:9])[C-:4]([H:11])[N:5]1[H:12])[H:8])[H:6]>>[O:1]([C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[H:12])([H:7])[H:8])[H:6],4.602313520461493
[O:1]=[C:2]([C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1](/[C:2](=[C:3](\[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])[H:9])[H:7])[H:8],69.3436526111289
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12]>>[C:1]1([H:7])([H:8])[C-:2]=[C:3]([H:10])[C:4]2=[O+:5][C@@:6]12[H:12].[H:9][H:11],154.05616698494302
[O:1]1[C@@:2]2([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:8])([H:12])[N:6]1[C:7]2([H:13])[H:14]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])=[N:6][C:7]1([H:13])[H:14])[H:8],38.6177695782994
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:11])[H:13])[C:4]([O:5][C:6]#[N:7])([H:14])[H:15])([H:8])([H:9])[H:10].[H:12][H:16],72.384327312393
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([H:11])[C:3]([C:4]([H:13])([H:14])[H:15])=[C:5]1[C:7]([H:19])([H:20])[H:21])([H:8])([H:9])[H:10].[C:6]([H:12])([H:16])([H:17])[H:18],93.3792538555423
[C-:6]#[O+:7].[C:1]([C:2]([O:3][H:12])([H:11])[H:17])([H:8])([H:9])[H:10].[C:4](=[C:5]([H:15])[H:16])([H:13])[H:14]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],54.4272920474726
[C:1]1([H:7])([H:9])[N:2]2[C@@:3]1([H:10])[N:4]=[N:5][C:6]2([H:8])[H:11]>>[C:1]([n:2]1[c:3]([H:10])[n:4][n:5][c:6]1[H:11])([H:7])([H:8])[H:9],66.3189459392494
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:4][C:5]([H:12])([H:13])[O:6][C:7]1([H:14])[H:15])[H:8],83.4128868286418
[O:1]([C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[H:12])([H:7])[H:8])[H:6]>>[O:1]=[C:2]([C:3]([C:4]([N:5]([H:6])[H:12])([H:10])[H:11])([H:7])[H:9])[H:8],39.6442124846741
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5][O:7][H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([H:15])([H:16])([H:17])[H:18]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],19.26803663365409
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@:4]1([O:5][H:13])[C:6]([H:14])([H:15])[O:7]2)([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([C:4][O:5][H:13])[C:3]([H:11])([H:12])[C:6]([H:14])([H:15])[O:7]1)([H:8])([H:9])[H:10],89.7208802338171
[C:1]([C:2]([C:3]([N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]=[C:5]=[O:6]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],68.12166378031259
[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:14].[C:2]([C:3]([C+:4]([O:5][H:16])[H:15])([H:12])[H:13])(=[C:6]=[N-:7])[H:11],75.05120025259141
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C+:2]([O:3][H:11])[C:4]([C-:5]=[C:6]([H:10])[H:14])([H:12])[H:13])([H:7])([H:8])[H:9],60.9632473929037
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:7]1)([H:8])([H:9])[H:10].[O:4]=[C:5]([C:6]([H:15])([H:16])[H:17])[H:14],65.12890323079199
[O:1]([C@@:2]([C:3]#[C:4][H:9])([C:6](=[C:5])[H:10])[H:8])[H:7]>>[O:1]([C:2]([C:3]#[C:4][H:9])([C:5]#[C:6][H:10])[H:8])[H:7],10.4104456595189
[C:1](=[C:2]=[C:3]=[C:4]([H:10])[H:11])([H:7])[H:8].[C:5](=[O:6])([H:9])[H:12]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],41.12576600202419
[C:1](/[N:2]=[C:3](/[O:4][H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([N:2]([C:3](=[O:4])[H:9])[H:8])([H:5])([H:6])[H:7],26.5531662337689
[C:1]([C:2]([H:7])([H:10])[H:11])([O:6]/[C:5](=[C:3](\[O:4][H:13])[H:12])[H:14])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],59.541895532838296
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7]>>[C:5](#[N:6])[H:9].[O:1](/[C:2](=[C:3](\[O:4][H:11])[H:10])[H:8])[H:7],71.0460336933658
